US05565479
0.1 ml of bromine was added dropwise to a solution of 0.47 g of 7-benzoyloxy-1-indanone in tetrahydrofuran (10 ml) at room temperature, and the mixture was stirred for 30 minutes. To 7-benzoyloxy-2-bromo-1-indanone obtained by evaporation of the solvent was added 15 ml of 2-propanol and 0.33 g of 4-imidazolylthioacetamide hydrochloride, followed by 2.5 hours of heating under reflux. After cooling and evaporation of the solvent, the residue was mixed with ethyl acetate, and extracted with 1N hydrochloric acid. The aqueous layer was neutralized with sodium bicarbonate and then extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The residual 4-benzoyloxy-2-(4-imidazolylmethyl)-8H-indeno[1,2-d]thiazole was dissolved in 10 ml of methanol, to the solution was added 1 ml of 5N aqueous sodium hydroxide solution and then stirred at room temperature for 15 minutes. After acidifying with 1N hydrochloric acid, the reaction solution was neutralized with sodium bicarbonate, and extracted with chloroform-methanol, and then the extract was dried over anhydrous magnesium sulfate. After evaporation of the solvent, the resultant crude crystals were recrystallized from ethanol to obtain 55 mg of 4-hydroxy-2-(4-imidazolylmethyl)-8H-indeno[1,2-d]thiazole.

reactant | bromine | 0.1 ml | BrBr | Br2
reactant | 7-benzoyloxy-1-indanone | 0.47 g | C(C1=CC=CC=C1)(=O)OC=1C=CC=C2CCC(C12)=O | C16H12O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-benzoyloxy-2-bromo-1-indanone | C(C1=CC=CC=C1)(=O)OC=1C=CC=C2CC(C(C12)=O)Br | C16H11BrO3
